US08877739B2
Synthesis of N5-(3-chloro-4-methyl-5-sulfophenyl)-L-glutamine (Compound No. 21)
After 1 ml of methylene chloride and 1 ml of THF were added to 303 mg (1 mmol) of Boc-Glu-OtBu hydrochloride and 180 mg (1.1 mmol) of CDI, 221 mg of 5-amino-3-chloro-2-methylbenzenesulfonic acid was further added to mixture. The mixture was stirred at room temperature overnight and then purified in accordance with the purification step A to give the protected form of the intended product. The obtained protected product was dissolved in 5 ml of trifluoroacetic acid. The solution was stirred for 2 hours. The solvent was distilled off and the mixture was purified in accordance with the purification step A to give the title compound.

reactant | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
reactant | Boc-Glu-OtBu hydrochloride | 1 mmol, 303 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | CDI | 1.1 mmol, 180 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-amino-3-chloro-2-methylbenzenesulfonic acid | 221 mg | NC=1C=C(C(=C(C1)S(=O)(=O)O)C)Cl | C7H8ClNO3S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N5-(3-chloro-4-methyl-5-sulfophenyl)-L-glutamine | ClC=1C=C(C=C(C1C)S(=O)(=O)O)NC(CC[C@H](N)C(=O)O)=O | C12H15ClN2O6S
